US05498728
A mixture of N-benzyloxycarbonyl-(L)-isoleucyl-(L)-tryptophanol(2.14 g), palladium-carbon (5%, 50% wet, 1.0 g) and methanol-THF (5:1, 30 ml) was subjected to catalytic hydrogenation at room temperature and atomospheric pressure. After the catalyst was filtered off, the filterate was concentrated under reduced pressure to yield an oily substance. The oil and valproic acid (0.71 g) were dissolved in N,N-dimethylformamide (20 ml), and 1-hydroxybenzotriazole (HOBt) (0.82 g) and a solution of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSCD·HCl)(1.13 g) in dichloromethane (20 ml) were added thereto at 0° C. After stirring at 0° C. for 1 hour and at room temperature for 15 hours, the reaction mixture was concentrated under reduced pressure and the residue was suspended in ethyl acetate (120 ml). The mixture was successively washed with 10% aqueous citric acid solution, water, saturated aqueous sodium hydrogen carbonate and brine, and dried (MgSO4). The organic solvent was evaporated off to yield N-valproyl-(L)-isoleucyl-(L)-tryptophanol (1.78 g, 84.8%) as crystals. Recrystallization from ethyl acetate-hexane gave colorless needles.

reactant | N-benzyloxycarbonyl-(L)-isoleucyl-(L)-tryptophanol | 2.14 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C25H31N3O4
reactant | valproic acid | 0.71 g | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | 1-hydroxybenzotriazole | 0.82 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.13 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
solvent | methanol THF | 30 ml | CO.C1CCOC1
product | N-valproyl-(L)-isoleucyl-(L)-tryptophanol | 1.78 g, 84.8% | C(C(CCC)CCC)(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)CO | C25H39N3O3
